data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2122,2355,[CH3:1][C:2]([Br:3])=[C:4]([Br:5])[Br:6].[CH3:7][N-:8][N+:9]([CH3:10])=[C:11]([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([Br:3])[C:4]([Br:5])([Br:6])[N:8]([CH3:7])[N:9]([CH3:10])[C:11]1([C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,48.36234110167079,-5.699381930455984
845,915,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N+:20]([CH3:21])=[C:22]([CH3:23])[CH3:24].[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:20]([CH3:21])[C:22]1([CH3:23])[CH3:24],water,298.15,24.31198912235517,-44.767675631701096
1160,1261,[CH3:16][c-:17]1[c:18](=[O:19])[o:20][c:21]([C:22]#[N:23])[n+:24]1[CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6]([CH3:7])=[O:8])=[C:9]([C:10]([CH3:11])=[O:12])[C:13]([CH3:14])=[O:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]([C:10]([CH3:11])=[O:12])([C:13]([CH3:14])=[O:15])[C:17]2([CH3:16])[C:18](=[O:19])[O:20][C:21]1([C:22]#[N:23])[N:24]2[CH3:25],water,298.15,20.09227048347872,10.03648355859555
4110,4703,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:16]=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,31.146143115159365,2.28025848667846
5092,5780,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[O:12][C:13]1([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,14.692106414270755,-35.84716871701872
3806,4357,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]=[C:17]2[C:18]([CH3:19])=[O:20],water,298.15,22.819145713870267,-26.83613328769465
536,585,[CH3:18][N-:19][N+:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6]([CH3:7])=[O:8])=[C:9]([C:10](=[O:11])[O:12][CH3:13])[C:14](=[O:15])[O:16][CH3:17]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[N:19]([CH3:18])[N:20]=[N:21]1,water,298.15,31.30733210828357,-0.622196596426946
2489,2764,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C-:26]([C:27]#[N:28])[N+:29]#[C:30][C:31](=[O:32])[O:33][CH3:34]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:30]([C:31](=[O:32])[O:33][CH3:34])=[N:29][C:26]2([C:24]([NH:23][CH3:22])=[O:25])[C:27]#[N:28],water,298.15,10.538813278529457,-55.22247780393028
485,531,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2.[N:12]#[C:13][N-:14][N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[N:14]([C:13]#[N:12])[N:15]=[C:16]2[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,13.224687929067164,-37.99970323269198
2169,2407,[CH3:18][O:19][C:20](=[O:21])[C-:22]([C:23]#[N:24])[N+:25]([CH3:26])=[C:27]([C:28]#[N:29])[C:30]#[N:31].[CH3:1][CH:2]1[C:3]#[C:4][C:5]([C:6]([F:7])([F:8])[F:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([C:6]([F:7])([F:8])[F:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:27]([C:28]#[N:29])([C:30]#[N:31])[N:25]([CH3:26])[C:22]2([C:20]([O:19][CH3:18])=[O:21])[C:23]#[N:24],water,298.15,24.84852395121409,-30.98030744682707
703,764,[CH3:14][NH:15][C:16](=[O:17])[C:18]([CH3:19])=[NH+:20][CH-:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([CH3:19])[NH:20][CH:21]3[C:22]#[N:23],water,298.15,11.765815680098289,-47.06449067467558
